US04300942
(2-Ethoxy)ethyl-N-[(propargylthio)carbonyl]-N-[dichlorophosphinylmethyl]glycinate (10.5 g.; 0.028 mol.) was dissolved in 50 ml. of diethyl ether and 50 ml. of methylene chloride. To the solution was added a solution of morpholine (9.7 g.; 0.11 mol.) in 100 ml. of diethyl ether. The resulting mixture was stirred for 16 hours at 25° C., then filtered. The filtrate was washed with 3% ammonium hydroxide, brine, 5% hydrochloric acid and again with brine. The ether layer was separated, dried and concentrated in vacuo. The residue was purified using a silica gel column with acetonitrile as the eluent to yield (2-ethoxy)ethyl-N-[(propargylthio)carbonyl]-N-[bis(morpholino)phosphinylmethyl]glycinate, dihydrate as an oil (nD25 =1.5200) having the following analysis:

reactant | (2-Ethoxy)ethyl-N-[(propargylthio)carbonyl]-N-[dichlorophosphinylmethyl]glycinate | 0.028 mol, 10.5 g | CCOCCOC(CN(CP(=O)(Cl)Cl)C(=O)SCC#C)=O | C11H16Cl2NO5PS
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | morpholine | 0.11 mol, 9.7 g | N1CCOCC1 | C4H9NO
solvent | diethyl ether | C(C)OCC | C4H10O
product | (2-ethoxy)ethyl-N-[(propargylthio)carbonyl]-N-[bis(morpholino)phosphinylmethyl]glycinate | CCOCCOC(CN(CP(=O)(N1CCOCC1)N1CCOCC1)C(=O)SCC#C)=O | C19H32N3O7PS
